US09447044B2
Step A: 2-cyclopentylsulfanyl-6-methoxy-nicotinic acid methyl ester
2-Chloro-6-methoxy-nicotinic acid methyl ester (54 mg, 0.26 mmol) and cyclopen-tanethiol were reacted in the same manner as in Step A of Preparation Example 16 to obtain the title compound (55 mg, 77%).

reactant | 2-Chloro-6-methoxy-nicotinic acid methyl ester | 0.26 mmol, 54 mg | COC(C1=C(N=C(C=C1)OC)Cl)=O | C8H8ClNO3
reactant | cyclopen-tanethiol | C1(CCCC1)S | C5H10S
product | 2-cyclopentylsulfanyl-6-methoxy-nicotinic acid methyl ester | 55 mg, 77% | COC(C1=C(N=C(C=C1)OC)SC1CCCC1)=O | C13H17NO3S
